US05162316
7-Phenyl-4-oxo-2-(2-propoxyphenyl) 3,4-dihydropyrimido[4.5-d]pyrimidine
In a similar manner to Example 3 reaction of ethyl 4-chloro-2-phenyl-5-pyrimidine carboxylate (1.05 g) with 2-propoxybenzamidine (from sodium, 0.10 g, in ethanol, 10 ml, and 2-propoxybenzamidine methanesulphonate, 1.20 g) and triethylamine (0.40 g) in acetonitrile (25 ml) for 3 days at ambient temperature yielded a crude product which was recrystallised from methanol to yield the title compound, 0.52 g, m.p. 203°-4° C.

reactant | ethyl 4-chloro-2-phenyl-5-pyrimidine carboxylate | 1.05 g | ClC1=NC(=NC=C1C(=O)OCC)C1=CC=CC=C1 | C13H11ClN2O2
reactant | 2-propoxybenzamidine | 10 ml, 0.10 g | C(CC)OC1=C(C(=N)N)C=CC=C1 | C10H14N2O
reactant | triethylamine | 0.40 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | 7-Phenyl-4-oxo-2-(2-propoxyphenyl) 3,4-dihydropyrimido[4.5-d]pyrimidine | C1(=CC=CC=C1)C1=NC=C2C(=N1)N=C(NC2=O)C2=C(C=CC=C2)OCCC | C21H18N4O2
